US05302727
124.5 g (0.5 mol) of ethyl 3,4-dimethoxyphenylcyanoacetate in 160 ml of abs. dimethylformamide were added at 15°-20° while stirring to a suspension of 84.5 g (0.753 mol) of potassium tert-butylate in 300 ml of abs. dimethylformamide. After one hour 83.5 ml of 1-bromo-3-chloropropane were slowly added dropwise, whereby the temperature amounted to 15°-20°. After 16 hours the reaction mixture was evaporated in a high vacuum. The residue was partitioned between ether and an aqueous saturated ammonium chloride solution. The combined organic extracts were dried and evaporated under reduced pressure. The oily residue was distilled in a high vacuum, whereby 145.7 g of ethyl [γ-chloropropyl-3,4-dimethoxyphenyl]cyanoacetate were obtained, b.p. 195°-201°/80 Pa.

reactant | ethyl 3,4-dimethoxyphenylcyanoacetate | 0.5 mol, 124.5 g | COC=1C=C(C=CC1OC)C(C(=O)OCC)C#N | C13H15NO4
reactant | potassium tert-butylate | 0.753 mol, 84.5 g | CC(C)(C)[O-].[K+]
reactant | 1-bromo-3-chloropropane | 83.5 ml | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl [γ-chloropropyl-3,4-dimethoxyphenyl]cyanoacetate | 145.7 g | ClCCCC1=C(C=CC(=C1OC)OC)C(C(=O)OCC)C#N | C16H20ClNO4
